US07053117B2
2-Amino-3-cyano-7-dimethylamino-4-(3-bromo-4,5-dimethoxyphenyl)-4-methylchromene
2-Imino-3-cyano-7-dimethylamino-4-(3-bromo-4,5-dimethoxyphenyl)-chromene: 4 Å Molecular sieves (20 mg) was added to 2-amino-3-cyano-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene (20 mg, 0.05 mmol) in dichloromethane (1 mL). The solution was stirred for 15 min. Then 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (10 mg, 0.05 mmol, 1 eq.) was added and stirred continuously at room temperature for 1 h. The reaction mixture was diluted with ethyl acetate (20 mL) and washed with sodium bicarbonate saturated solution (20 mL), brine (20 mL), dried over sodium sulfate and concentrated to yield 17 mg (79%) of the desired compound. 1H NMR (DMSO-d6): 8.33 (s, 1H), 7.28 (d, J=1.9 Hz, 1H), 7.21 (d, J=1.9 Hz, 1H), 6.87 (d, J=9.1 Hz, 1H), 6.56 (dd, J=2.5, 9.1 Hz, 1H), 6.40 (d, J=2.5 Hz, 1H), 3.84 (s, 3H), 3.82 (s, 3H), 3.03 (s, 6H).

reactant | 2-Imino-3-cyano-7-dimethylamino-4-(3-bromo-4,5-dimethoxyphenyl)-chromene | N=C1OC2=CC(=CC=C2C(=C1C#N)C1=CC(=C(C(=C1)OC)OC)Br)N(C)C | C20H18BrN3O3
reactant | 2-amino-3-cyano-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene | 0.05 mmol, 20 mg | NC=1OC2=CC=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)Br | C18H15BrN2O3
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.05 mmol, 10 mg, 1 eq. | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-Amino-3-cyano-7-dimethylamino-4-(3-bromo-4,5-dimethoxyphenyl)-4-methylchromene | 17 mg, 79% | NC=1OC2=CC(=CC=C2C(C1C#N)(C)C1=CC(=C(C(=C1)OC)OC)Br)N(C)C | C21H22BrN3O3
